US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({6-fluoro-3′-[(2-oxo-1-piperazinyl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide
To a solution of 1,1-dimethylethyl 3-oxo-1-piperazinecarboxylate (0.027 g, 0.135 mmol) in DMF (0.25 mL) was added NaH (0.0033 g, 0.135 mmol). This mixture was stirred at room temperature for 5 min whereupon a solution of the above N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-fluoro-3′-(iodomethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide in DMF (0.25 mL) was added. The resulting mixture was stirred for 15 h and purified with a Gilson HPLC (with TFA). The relevant HPLC fractions collected and treated with TFA (0.10 mL), the solvent concentrated on GeneVav EZ-2 evaporator, purified again with Gilson HPLC (with TFA), solvent concentrated on GeneVav EZ-2 evaporator, and the residue basified with an amine cartridge to afford 0.0143 g (13%) of the title compound. LC-MS m/z 747 (M+H)+; 1H-NMR (400 MHz, CD3OD) δ ppm 1.40 (t, J=7.65 Hz, 3 H) 1.49 (t, J=7.15 Hz, 3 H) 1.81-1.93 (m, 2 H) 2.09 (d, J=12.55 Hz, 2 H) 3.16 (q, J=7.53 Hz, 2 H) 3.48-3.55 (m, 2 H) 3.55-3.61 (m, 2 H) 3.62-3.72 (m, 2 H) 3.93 (s, 2 H) 3.99-4.08 (m, 2 H) 4.30-4.40 (m, 1 H) 4.47 (q, J=7.11 Hz, 2 H) 4.60 (s, 2 H) 4.72 (d, J=4.77 Hz, 4 H) 7.15 (dd, J=10.67, 8.41 Hz, 1 H) 7.32-7.41 (m, 2 H) 7.44 (t, J=7.53 Hz, 1 H) 7.47-7.54 (m, 3 H) 7.60 (t, J=7.91 Hz, 1 H) 8.00-8.08 (m, 2 H) 8.29 (s, 1 H) 8.38 (t, J=1.63 Hz, 1 H).

reactant | 1,1-dimethylethyl 3-oxo-1-piperazinecarboxylate | 0.135 mmol, 0.027 g | O=C1CN(CCN1)C(=O)OC(C)(C)C | C9H16N2O3
reactant | NaH | 0.135 mmol, 0.0033 g | [H-].[Na+]
reactant | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-fluoro-3′-(iodomethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CI)CC | C38H40FIN6O3
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({6-fluoro-3′-[(2-oxo-1-piperazinyl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide | 0.0143 g, 13% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2C(CNCC2)=O)CC | C42H47FN8O4
